US07312249B2
a. Preparation of 4-[3-(3,4-Bis-hydroxymethyl-phenyl)-propyl]-2-ethyl-phenol
1.7 g (4.8 mmol) of dimethyl 4-[3-(3-ethyl-4-hydroxyphenyl)propyl]phthalate (Example 1f are dissolved in 50 ml of ethyl ether, and this solution is slowly added to a suspension of 435 mg (11.4 mmol) of lithium aluminum hydride. The medium is stirred for 30 minutes and is then sequentially treated with 450 μl of water, 450 μl of 15% sodium hydroxide and 1.5 ml of water. The reaction medium is poured into a 1N hydrochloric acid solution, and extracted with ethyl ether. A white solid is obtained (m=1.2 g, m.p.=82° C., y=84%).

reactant | dimethyl 4-[3-(3-ethyl-4-hydroxyphenyl)propyl]phthalate | 4.8 mmol, 1.7 g | C(C)C=1C=C(C=CC1O)CCCC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C21H24O5
reactant | lithium aluminum hydride | 11.4 mmol, 435 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 450 μl | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | water | 1.5 ml | O | H2O
solvent | water | 450 μl | O | H2O
product | 4-[3-(3,4-Bis-hydroxymethyl-phenyl)-propyl]-2-ethyl-phenol | OCC=1C=C(C=CC1CO)CCCC1=CC(=C(C=C1)O)CC | C19H24O3
